US07994185B2
N-{3-[2-(1,1-dimethylethyl)-5-(4-pyrimidinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-3-furansulfonamide
Following a procedure analogous to the procedure described in Example 26 using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-3-furansulfonamide (77 mg, 0.156 mmol) and ammonium formate (98 mg, 1.562 mmol), the title compound was obtained as a yellow solid (23 mg, 30% yield). MS (ESI): 459 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-3-furansulfonamide | 0.156 mmol, 77 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=COC=C1)F | C21H18ClFN4O3S2
reactant | ammonium formate | 1.562 mmol, 98 mg | C(=O)[O-].[NH4+]
product | N-{3-[2-(1,1-dimethylethyl)-5-(4-pyrimidinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-3-furansulfonamide | CC(C)(C)C=1SC(=C(N1)C=1C(=C(C=CC1)NS(=O)(=O)C1=COC=C1)F)C1=NC=NC=C1 | C21H19FN4O3S2
